US04837225
N-(2-(2,5-Dimethyl-1-pyrrolyl)ethyl)-(2-oxo-1-pyrrolidinyl)acetamide
14.3 g (0.1 mol) of (2-oxo-1-pyrrolidinyl)acetic acid and 16.2 g (0.1 mol) of N,N'-carbonyldiimidazole are heated under reflux in 70 ml of tetrahydrofuran for 15 min. After cooling, 13.8 g (0.1 mol) of 1-(2-aminoethyl)-2,5-dimethylpyrrole in 70 ml of tetrahydrofuran are added dropwise. After the reactionmixture has been stirred at room temperature for 6 h, it is concentrated, acifified with dilute acetic acid and extracted with methylene chloride. The methylene chloride extract is concentrated, and the residue is triturated with ether, filtered off with suction and recrystallized from dibuyl ether. Yield: 9.0 g (34% of theory), Melting point: 109°-111° C. Elemental analysis: C14H21N3O2 (263.34) calculated: C 63.9 H 8.0 N 16.0 O 12.2 found: C 63.8 H 8.0 N 15.9 O 12.2

reactant | (2-oxo-1-pyrrolidinyl)acetic acid | 0.1 mol, 14.3 g | O=C1N(CCC1)CC(=O)O | C6H9NO3
reactant | 1-(2-aminoethyl)-2,5-dimethylpyrrole | 0.1 mol, 13.8 g | NCCN1C(=CC=C1C)C | C8H14N2
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | N-(2-(2,5-Dimethyl-1-pyrrolyl)ethyl)-(2-oxo-1-pyrrolidinyl)acetamide | CC=1N(C(=CC1)C)CCNC(CN1C(CCC1)=O)=O | C14H21N3O2
